US04632925
Preparation of 4-(2,2-diphenylethenyl)-1-[1-oxo-5-(3-pyridinyl)pentyl]piperidine
The title compound was prepared in a manner similar to that employed for the compound of example 10 starting with 5.27 g of 4-(2,2-diphenylethenyl)piperidine and the acid chloride prepared from 6.5 g of 3-pyridine pentanoic acid. The toluene extracts were evaporated and chromatographed on a Waters Prep 500 using silica gel columns and eluting with 98:2 ethyl acetate-triethylamine. Evaporation of the combined product fractions gave 8.0 g (94%) of crude 4-(2,2-diphenylethenyl)-1-[1-oxo-5-(3-pyridinyl)pentyl]piperidine. Crystallization of a small portion from ether gave analytically pure 4-(2,2-diphenylethenyl)-1-[1-oxo-5-(3-pyridinyl)pentyl]piperidine, mp 82°-84° C. Analysis Calculated for C29H32N2O: C, 82.04; H, 7.60; N, 6.60. Found: C, 81.88; H, 7.63; N, 6.67.

reactant | 4-(2,2-diphenylethenyl)piperidine | 5.27 g | C1(=CC=CC=C1)C(=CC1CCNCC1)C1=CC=CC=C1 | C19H21N
reactant | 3-pyridine pentanoic acid | 6.5 g | N1=CC(=CC=C1)CCCCC(=O)O | C10H13NO2
product | 4-(2,2-diphenylethenyl)-1-[1-oxo-5-(3-pyridinyl)pentyl]piperidine | 8.0 g, 94% | C1(=CC=CC=C1)C(=CC1CCN(CC1)C(CCCCC=1C=NC=CC1)=O)C1=CC=CC=C1 | C29H32N2O
